US05364844
2(R)-Benzyl-4-oxopentanoic acid
A solution or 1.00 g (3.37 mmoles) of benzyl 2(R)-benzyl-4-oxopentanoate (prepared as described in Preparation 19) in 10 ml of ethanol was stirred at room temperature for 3 hours in the presence of 100 mg of 10% w/w palladium-on-charcoal and under about 4 atmospheres of hydrogen. At the end of this time, the catalyst was removed by filtration, and then the solvent was removed by distillation under reduced pressure. The residue was recrystallized from a mixture of hexane and diisopropyl ether, to give 610 mg (yield 88%) of the title compound as white crystals, melting at 71°-73° C.

reactant | benzyl 2(R)-benzyl-4-oxopentanoate | 3.37 mmoles, 1.00 g | C(C1=CC=CC=C1)[C@@H](C(=O)OCC1=CC=CC=C1)CC(C)=O | C19H20O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2(R)-Benzyl-4-oxopentanoic acid | 610 mg, yield 88% | C(C1=CC=CC=C1)[C@@H](C(=O)O)CC(C)=O | C12H14O3
